US08912181B2
5-Bromo-3-methylisoquinoline-2-oxide was obtained according to Example 1(1) using 5-bromo-3-methylisoquinoline instead of 5-bromoisoquinoline. 3-(1-Chloro-3-methylisoquinolin-5-yl)quinoline was obtained according to Example 5(1) using the obtained 5-bromo-3-methylisoquinoline-2-oxide instead of compound (3a) and Pd(PPh3)4 instead of PdCl2dppf. A suspension of the obtained 3-(1-chloro-3-methylisoquinolin-5-yl)quinoline (0.151 g), NBS (0.098 g), and AIBN (0.017 g) in carbon tetrachloride (5 ml) was heated to reflux overnight. After cooling, insoluble matter was filtered off using celite. THF (3 ml), morpholine (0.1 ml), and diisopropylethylamine (0.2 ml) were added to the filtrate, and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine. The organic layer thus washed was dried over anhydrous sodium sulfate. Then, the solvent was distilled off, and the residue was purified by neutral silica gel column chromatography (chloroform/methanol) to obtain 4-((1-chloro-5-(quinolin-3-yl)isoquinolin-3-yl)methyl)morpholine (25 mg). Compound (31) was obtained as a pale yellow solid (yield based on 7 steps: 1%) according to Example 1(5) using the obtained 4-((1-chloro-5-(quinolin-3-yl)isoquinolin-3-yl)methyl)morpholine instead of compound (1d) and 4-cyano-3-(4-hydroxycyclohexylamino)phenylboronic acid pinacol ester instead of 4-cyano-3-(ethylamino)phenylboronic acid pinacol ester.

reactant | 5-bromo-3-methylisoquinoline-2-oxide | BrC1=C2C=C([N+](=CC2=CC=C1)[O-])C | C10H8BrNO
reactant | 3-(1-chloro-3-methylisoquinolin-5-yl)quinoline | 0.151 g | ClC1=NC(=CC2=C(C=CC=C12)C=1C=NC2=CC=CC=C2C1)C | C19H13ClN2
reactant | NBS | 0.098 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.017 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-((1-chloro-5-(quinolin-3-yl)isoquinolin-3-yl)methyl)morpholine | 25 mg | ClC1=NC(=CC2=C(C=CC=C12)C=1C=NC2=CC=CC=C2C1)CN1CCOCC1 | C23H20ClN3O
